US07842696B2
DIPEA (110 mg, 0.85 mmol) was added to a stirred solution of biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (100 mg, 0.22 mmol) in DMF (3 mL). HOBT (28.3 mg, 0.2 mmol) and EDCI.HCl (91.25 mg, 0.47 mmol) were then added. After 2 minutes 2,5-dichlorobenzoic acid (36.4 mg, 0.19 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water and the product was precipitated and isolated by filtration to afford crude product, which was purified by preparative HPLC (Column: Zorbax-XDB-9.4×250 mm, 5 μm, mobile phase: A-0.1% Trifluoroacetic acid, B-Acetonitrile, Flow: 7 ml/min). The product obtained was extracted with ethyl acetate and the ethyl acetate layer was washed with NaHCO3 solution, saturated brine solution, dried over sodium sulphate and concentrated to afford 30 mg (26.5% yield) of biphenyl-4-carboxylicacid {2-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LC-MS purity: 99.5%, 1H NMR: (DMSO) δ 8.6 (t, 1H), 8.0 (d, 2H), 7.7 (q, 4H), 7.5 (m, 5H), 7.4 (t, 1H), 4.25-4.1 (m, 2H), 3.8-3.6 (m, 4H), 3.5-3.4 (m, 2H), 3.25 (m, 2H).

reactant | DIPEA | 0.85 mmol, 110 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.22 mmol, 100 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | HOBT | 0.2 mmol, 28.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.47 mmol, 91.25 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2,5-dichlorobenzoic acid | 0.19 mmol, 36.4 mg | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylicacid {2-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 30 mg, 26.5% yield | ClC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=C(C=C1)Cl | C26H23Cl2N3O3
